US08377923B2
2,4,6-trifluorophenol (5.00 g) was dissolved in DMF (100 ml), ethyl 2-bromo-2-methylpropanoate (15 ml) and potassium carbonate (7.00 g) were added thereto, followed by stirring at 80° C. overnight. The reaction solution was cooled to room temperature, water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with a 1M aqueous sodium hydroxide solution and then 1M hydrochloric acid in this order, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=19:1) to obtain a colorless oily product. The oily product thus obtained was dissolved in ethanol (150 ml), a 1M aqueous sodium hydroxide solution (70 ml) was added thereto, followed by stirring at room temperature for one hour. The reaction solution was concentrated under reduced pressure and water was added to the resulting residue, followed by washing with ethyl acetate. 1M hydrochloric acid was added to the aqueous layer, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to obtain 2-methyl-2-(2,4,6-trifluorophenoxy)propanoic acid (7.83 g) as a colorless oily product.

reactant | 2,4,6-trifluorophenol | 5.00 g | FC1=C(C(=CC(=C1)F)F)O | C6H3F3O
reactant | ethyl 2-bromo-2-methylpropanoate | 15 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 7.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1M, 70 ml | [OH-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-methyl-2-(2,4,6-trifluorophenoxy)propanoic acid | 7.83 g | CC(C(=O)O)(C)OC1=C(C=C(C=C1F)F)F | C10H9F3O3
